US08669271B2
4-[5-(4-Cyclopropanesulfonyl-piperazin-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared by treatment of 4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester with cyclopropylsulfonyl chloride in dichloromethane in the presence of triethylamine. LC (method 10): tR=1.47 min; Mass spectrum (ESI+): m/z=493 [M+H]+.

reactant | 4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCNCC2)O1 | C21H32N4O3
reactant | cyclopropylsulfonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[5-(4-Cyclopropanesulfonyl-piperazin-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCN(CC2)S(=O)(=O)C2CC2)O1 | C24H36N4O5S
